US07547710B2
To a solution of tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.40 g, 0.95 mmol) in N,N-dimethylformamide (10 ml) were added potassium carbonate (0.28 g, 2.0 mmol) and ethyl 5-chloromethyl-2-furancarboxylate (0.38 g, 2.0 mmol) and the mixture was stirred at room temperature for 6 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl 4-({[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}methyl)-2-furoate (0.43 g, yield 80%) as pale-yellow crystals.

reactant | tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 0.95 mmol, 0.40 g | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H32N2O3
reactant | potassium carbonate | 2.0 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-chloromethyl-2-furancarboxylate | 2.0 mmol, 0.38 g | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 4-({[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}methyl)-2-furoate | 0.43 g, yield 80% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC=1C=C(OC1)C(=O)OCC)CC(C)C | C34H40N2O6
